US04647560
7-Chloro-5-(4-chlorophenyl)-1'-benzyloxycarbonyl-spiro-[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
20 ml (0.06 mole) of a 50 percent strength solution of benzyl chloroformate in toluene are added to a mixture of 9.5 g (0.02 nole) of 7-chloro-5-(4-chlorophenyl)-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one and 5 g (0.06 mole) of NaHCO3 in 150 ml of methylene chloride. The reaction mixture is boiled for 3 hours, with reflux cooling. It is then poured onto ice and the organic phase is separated off and washed twice with 10 percent strength NaHCO3 solution. After drying over Na2SO4, the organic phase is filtered and the solvent is evaporated off. The oily residue is made to crystallise with petroleum ether. The compound is filtered off with suction, boiled up with n-hexane and dried at 60° C. in vacuo.

reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 7-chloro-5-(4-chlorophenyl)-1'-benzyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | 9.5 g | ClC=1C=CC2=C(C(=NC3(CCN(CC3)CC3=CC=CC=C3)C(N2)=O)C2=CC=C(C=C2)Cl)C1 | C26H23Cl2N3O
reactant | NaHCO3 | 0.06 mole, 5 g | C(=O)(O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 7-Chloro-5-(4-chlorophenyl)-1'-benzyloxycarbonyl-spiro-[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | ClC=1C=CC2=C(C(=NC3(CCN(CC3)C(=O)OCC3=CC=CC=C3)C(N2)=O)C2=CC=C(C=C2)Cl)C1 | C27H23Cl2N3O3
